US05866611
The mixture was heated at reflux for 6 hours, cooled to ambient temperature and filtered. The filtrate was evaporated, and the residue treated with ether to give crude 2-chloro-4-aminophenol (10 g). The crude 2-chloro-4-aminophenol (3.5 g) was added to a mixture of water (50 ml) and acetic anhydride (5.7 ml). The reaction mixture was stirred at reflux for 2 hours. The reaction mixture was cooled to ambient temperature and the supernatant was decanted away from an oil which gave a solid on standing. The solid was purified by flash column chromatography on silica gel (Merck Art. No 9385) using a 1:2(v/v) mixture of ethyl acetate and pentane as eluent to give 2-chloro-4-acetamidophenol as an oil (1.7 g); NMR: ([CD3 ]2SO): 2.0(3H,s), 6.85(1H,d), 7.2(1H,m), 7.68(1H,m) and 9.8(2H,m).

reactant | 2-chloro-4-aminophenol | 3.5 g | ClC1=C(C=CC(=C1)N)O | C6H6ClNO
reactant | acetic anhydride | 5.7 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | 50 ml | O | H2O
product | 2-chloro-4-acetamidophenol | 1.7 g | ClC1=C(C=CC(=C1)NC(C)=O)O | C8H8ClNO2
